US08198450B2
Preparation of (R)-5-[2-(5,6-diethyl-indan-2-ylamino)-1-hydroxyethyl]-8-hydroxy-1H-quinolin-2-one hydrobromide
A suspension of 1.93 g (R)-5-[2-(5,6-diethyl-indan-2-ylamino)-1-hydroxyethyl]-8-hydroxy-1H-quinolin-2-one base (4.92 mmoles) in 13.5 ml methanol is heated to 50° C., A solution of 0.829 g hydrobromic acid 48% (4.92 mmoles) in 5 ml methanol is dropwise added over 15 minutes. The resulting very thick suspension is diluted with 43 ml methanol and allowed to cool. After stirring for 3 hours at room temperature the precipitate is filtered. The filter cake is washed with 5 ml methanol. The crystals are dried for 16 hours at 50° C./ca. 10 mbar and for 2 hours at 50° C. and ca. 1 mbar. Yield: 2.33 g white powder (84.27%)

reactant | (R)-5-[2-(5,6-diethyl-indan-2-ylamino)-1-hydroxyethyl]-8-hydroxy-1H-quinolin-2-one | 4.92 mmoles, 1.93 g | C(C)C=1C=C2CC(CC2=CC1CC)NC[C@H](O)C1=C2C=CC(NC2=C(C=C1)O)=O | C24H28N2O3
reactant | hydrobromic acid | 4.92 mmoles, 0.829 g | Br | BrH
solvent | methanol | 13.5 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 43 ml | CO | CH4O
product | (R)-5-[2-(5,6-diethyl-indan-2-ylamino)-1-hydroxyethyl]-8-hydroxy-1H-quinolin-2-one hydrobromide | Br.C(C)C=1C=C2CC(CC2=CC1CC)NC[C@H](O)C1=C2C=CC(NC2=C(C=C1)O)=O | InChI=1S/C24H28N2O3.BrH/c1-3-14-9-16-11-18(12-17(16)10-15(14)4-2)25-13-22(28)19-5-7-21(27)24-20(19)6-8-23(29)26-24;/h5-10,18,22,25,27-28H,3-4,11-13H2,1-2H3,(H,26,29);1H/t22-;/m0./s1
